US04400513
A. Preparation of 2,2,6,6-tetramethylpiperidine-4-spiro-oxirane
44.55 g (0.825 mole) of CH3ONa were then added, under stirring, to the mixture and then, in half an hour, a solution of 77.5 g (0.5 mole) of triacetonamine dissolved in 50 cc of CH3CN was gradually added. After having stirred the mixture for 4 hours at room temperature, most of the solvent was distilled under vacuum and 500 cc of H2O were added to the mixture.

reactant | CH3ONa | 0.825 mole, 44.55 g | CO[Na]
reactant | triacetonamine | 0.5 mole, 77.5 g | CC1(CC(=O)CC(N1)(C)C)C | C9H17NO
solvent | CH3CN | 50 cc | CC#N | C2H3N
product | 2,2,6,6-tetramethylpiperidine-4-spiro-oxirane | CC1(NC(CC2(OC2)C1)(C)C)C | C10H19NO
